US08202858B2
3-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-1-(4-methanesulfonyl-piperazin-1-yl)-propan-1-one
A solution of methanesulfonyl chloride (0.57 mg, 0.005 mmol) in dichloromethane (0.05 ml) was added to a solution of 3-[4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-1-piperazin-1-yl-propan-1-one (2.36 mg, 0.005 mmol) in dichloromethane (0.05 ml) and triethylamine (0.0035 ml). The mixture was stirred at room temperature for 20 h then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=551.3

reactant | methanesulfonyl chloride | 0.005 mmol, 0.57 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-[4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-1-piperazin-1-yl-propan-1-one | 0.005 mmol, 2.36 mg | CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3=CC(=C(C=C3)CCC(=O)N3CCNCC3)C | C27H32N6O2
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.0035 ml | C(C)N(CC)CC | C6H15N
product | 3-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-1-(4-methanesulfonyl-piperazin-1-yl)-propan-1-one | CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3=CC(=C(C=C3)CCC(=O)N3CCN(CC3)S(=O)(=O)C)C | C28H34N6O4S
